US05360921
In "Chem. Berichte" 119 1750 (1986) , a solution containing 1,2,3,4-tetramethylcyclopentadienyl lithium and dimethyldichlorosilane is heated for 5 days to obtain dimethylbis(2,3,4,5-tetramethylcyclopentadienyl)silane in a 65% yield.

reactant | 1,2,3,4-tetramethylcyclopentadienyl lithium | CC1(C(=C(C(=C1)C)C)C)[Li]
reactant | dimethyldichlorosilane | C[Si](Cl)(Cl)C | C2H6Cl2Si
product | dimethylbis(2,3,4,5-tetramethylcyclopentadienyl)silane | 65% yield | C[Si](C1C(=C(C(=C1C)C)C)C)(C1C(=C(C(=C1C)C)C)C)C | C20H32Si
